US07786132B2
1-(4-Fluorophenyl)-1-(thiazol-2-yl)ethanol
A solution of (4-fluorophenyl)(thiazol-2-yl)methanone (1.05 g, 5.07 mmol) in diethyl ether (50 mL) and was cooled to 0° C., treated with methylmagnesium bromide (1.85 mL, 3.0 M in Et2O, 5.57 mmol) and stirred overnight at room temperature. The reaction was quenched with saturated ammonium chloride solution, extracted with diethyl ether (2×30 mL), washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to afford the title compound as an oily brown residue (1.052 g, 93% yield). MS (M+H)+ 224.

reactant | (4-fluorophenyl)(thiazol-2-yl)methanone | 5.07 mmol, 1.05 g | FC1=CC=C(C=C1)C(=O)C=1SC=CN1 | C10H6FNOS
reactant | methylmagnesium bromide | 5.57 mmol, 3.0 M, 1.85 mL | C[Mg]Br
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 1-(4-Fluorophenyl)-1-(thiazol-2-yl)ethanol | FC1=CC=C(C=C1)C(C)(O)C=1SC=CN1 | C11H10FNOS
